### PR TITLE
[Merged by Bors] - feat(Analysis/Meromorphic): MeromorphicAt.comp_analyticAt

### PR DESCRIPTION
**Pull request by loefflerd**
The composite of a meromorphic function and an analytic function is meromorphic.

---

Result of an accidental self-nerd-snipe when reviewing #27500.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 1]
```diff
@@ -730,3 +730,21 @@ theorem codiscrete_setOf_meromorphicOrderAt_eq_zero_or_top (hf : MeromorphicOn f
...
+    (hf : MeromorphicAt f (g x)) (hg : AnalyticAt 𝕜 g x) : MeromorphicAt (f ∘ g) x := by
+  obtain ⟨r, hr⟩ := hf
+  by_cases hg' : analyticOrderAt (g · - g x) x = ⊤
+  · -- trivial case: `g` is locally constant near `x`
+    refine .congr (.const (f (g x)) x) ?_
+    filter_upwards [nhdsWithin_le_nhds <| analyticOrderAt_eq_top.mp hg'] with z hz
+    grind
+  · -- interesting case: `g z - g x` looks like `(z - x) ^ n` times a non-vanishing function
+    rw [← Ne, WithTop.ne_top_iff_exists] at hg'
+    obtain ⟨n, hn⟩ := hg'
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/Order.lean]: Would you like to combine these two lines: obtain ... := ...?

File: Mathlib/Analysis/Meromorphic/Order.lean [hunk 2]
```diff
@@ -730,3 +730,21 @@ theorem codiscrete_setOf_meromorphicOrderAt_eq_zero_or_top (hf : MeromorphicOn f
...
+    obtain ⟨h, han, hne, heq⟩ := (hg.fun_sub analyticAt_const).analyticOrderAt_eq_natCast.mp hn.symm
+    refine ⟨n * r, (((han.fun_inv hne).pow r).smul (hr.comp hg)).congr ?_⟩
```
Comment (grunweg) [inline Mathlib/Analysis/Meromorphic/Order.lean]: Is `fun_prop` set up with analysis functions? If so, an even nicer proof could extract the last goal as a have, and then call `fun_prop`.

**Review by grunweg — COMMENTED** [review]
Thanks, looks good. Just two minor comments.

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Analysis/Meromorphic/Order.lean]: There are some `fun_prop` lemmas for `AnalyticAt`, but it seems to struggle here (probably because it is trying to break up `(g z - g x) ^ r • f (g z)` into its component parts, which is a dead end for this particular proof, rather than writing it as the composition of `g` and `(z - x) ^ r • f z`, which are each known to be analytic). OK to leave it as it is?

Comment (grunweg) [reply Mathlib/Analysis/Meromorphic/Order.lean]: You *could* help fun_prop along by doing something like `set h := (z - x) ^ r • f z` --- but you can also leave it as-is.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer delegate

File: Mathlib/Analysis/Meromorphic/Order.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Analysis/Meromorphic/Order.lean]: Thanks, that works! I have pushed a version using this approach. It's actually one line longer than before, but much more readable.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
